US04165334
(A) Preparation of polyoxyethyl (n=~17) octadecyl sulfide
1-Octadecanethiol, 250 g. (0.87 mole), was dissolved in 250 ml of bis-(2-methoxyethyl) ether. Three grams (0.13 mole) of cut sodium spheres were added and the reaction mixture was transferred to a rocking autoclave and ~462 g. of ethylene oxide was bled into the autoclave over a period of 3 hours at 140°-160° C. The maximum pressure observed was 540 lbs. After all the ethylene oxide had been added, rocking was continued for an additional hour. The mixture was cooled, the bis-(2-methoxyethyl) ether was evaporated under reduced pressure, and the residue crystallized from hexane to give a white solid in 65% yield based on the octadecane thiol.

reactant | 1-Octadecanethiol | C(CCCCCCCCCCCCCCCCC)S | C18H38S
reactant | sodium | 0.13 mole, Three grams | [Na] | Na
reactant | ethylene oxide | C1CO1 | C2H4O
solvent | bis-(2-methoxyethyl) ether | 250 ml | COCCOCCOC | C6H14O3
product | octadecyl sulfide | 65% yield | C(CCCCCCCCCCCCCCCCC)SCCCCCCCCCCCCCCCCCC | C36H74S
